US04711952
(b) Benzyloxycarbonylglycyl-glycyl-serine hydrazide
A solution of benzyloxycarbonylglycyl-glycine (13.31 g, 50 mmoles), N-hydroxysuccinimide (5.75 g) and N, N'-dicyclohexylcarbodiimide (11.3 g) in dimethylformamide (180 ml) is stirred and cooled (-10° C.) for 1 hour. A precooled (-10° C.) solution of serine methyl ester, liberated from its hydrochloride (7.8 g, 50 mmoles) with N-ethylpiperidine (6.85 ml), in the same solvent (50 ml) is added, and the reaction mixture is stirred for 3 hours at 0° C. and allowed to stand for 8 hours at room temperature; the N, N'-dicyclohexylurea precipitate is filtered off and the filtrate is admixed with 100% hydrazine hydrate (15 ml). After 3 days of standing at room temperature, the formed hydrazide is separated, washed with ethanol and crystallized from aqueous ethanol. Yield 15.2 g (83%), m.p. 172-175 (unchanged after recrystallization). Composition: C15H21N5O6.

reactant | benzyloxycarbonylglycyl-glycine | 50 mmoles, 13.31 g | C(C1=CC=CC=C1)OC(=O)NCC(=O)NCC(=O)O | C12H14N2O5
reactant | N-hydroxysuccinimide | 5.75 g | ON1C(CCC1=O)=O | C4H5NO3
reactant | N, N'-dicyclohexylcarbodiimide | 11.3 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | serine methyl ester | COC([C@@H](N)CO)=O | C4H9NO3
reactant | hydrochloride | 50 mmoles, 7.8 g | Cl | ClH
reactant | N-ethylpiperidine | 6.85 ml | C(C)N1CCCCC1 | C7H15N
reactant | dimethylformamide | 180 ml | CN(C=O)C | C3H7NO
product | Benzyloxycarbonylglycyl-glycyl-serine hydrazide | C(C1=CC=CC=C1)OC(=O)NCC(=O)NCC(=O)N[C@@H](CO)C(=O)NN | C15H21N5O6
